US08461134B2
A mixture of 2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide (3.6 g, crude, 10 mmol), NH3H2O (50 mL) and Raney Ni (3 g) in MeOH (500 mL) was stirred under 50 PSI H2 at room temperature for 20 hrs. The mixture was filtered and the filtrate was concentrated. The residue was purified by prep-HPLC (column: Luna 300×50.0 mm, 10 u; liquid phase: [A-H2O+0.025% TFA; B-MeCN] B %: 10%-45%, 25 min) to give 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (2.5 g, 55%) as TFA salt. 1H NMR DMSO 400 MHz δ10.05 (s, 1H), 8.16 (s, 3H), 7.47 (d, J=4.8 Hz, 1H), 7.42 (d, J=5.6 Hz, 1H), 7.23 (d, J=8.4 Hz, 1H), 7.10 (q, 1H), 6.54 (s, 1H), 6.47 (q, 1H), 4.86 (s, 2H), 4.12 (d, J=5.6 Hz, 1H).

reactant | 2-cyano-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-4-nitrobenzenesulfonamide | 10 mmol, 3.6 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1 | C14H10BN3O6S
solvent | MeOH | 500 mL | CO | CH4O
catalyst | Ni | 3 g | [Ni] | Ni
product | 4-amino-2-(aminomethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 2.5 g, 55% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CN | C14H16BN3O4S
